US04927838
A stirred mixture of (E)-3-(1-butyl-6-methoxy-2-naphthalenyl)-2-propenoic acid (1.5 g) and 4-nitrophenol (0.81 g) in dichloromethane, was cooled in an ice bath, during the addition of a solution of 1,3-dicyclohexyl- carbodiimide (1.1 g) in dichloromethane (5 mL) then the reaction was stirred at room temperature over the weekend. After the precipitated dicyclohexylurea was removed by filtration, the filtrate was concentrated and applied to a column of silica gel (25 g) made up in dichloromethane-hexane (2:1). Elution with the same solvent mixture and concentration of the appropriate fractions yielded 2 g of (E)-3-(1-butyl-6-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester. Crystallization of the material from 2-propanol gave 1.85 g of the active ester, mp 140°-141° C. Anal. Calcd for C24H23NO5 : C, 71.10; H, 5.72; N, 3.45 Found: C, 70.98; H, 5.50; N, 3.33

reactant | (E)-3-(1-butyl-6-methoxy-2-naphthalenyl)-2-propenoic acid | 1.5 g | C(CCC)C1=C(C=CC2=CC(=CC=C12)OC)/C=C/C(=O)O | C18H20O3
reactant | 4-nitrophenol | 0.81 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexyl- carbodiimide | 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (E)-3-(1-butyl-6-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester | 2 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC=C(C=C2C=C1)OC)CCCC)=O | C24H23NO5
